US04054656
N-[3-(aminocarbonyl)-4,5,6,7-tetrahydrobenzo[b]THIEN-2-YL]OXAMIC ACID.
A suspension of 392 g. (2.0 mole) of 2-amino-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide and 321.2 g. (2.2 mole) of diethyl oxylate in 5 l. of absolute ethanol is added to a solution of sodium ethoxide, prepared from 50.6 g. (2.2 g. atoms) of sodium, in 2 l. of absolute ethanol under nitrogen. The mixture is stirred with heating at the reflux temperature for 6 hrs. and then refrigerated overnight. It is then diluted with stirring 15 l. with cool water. A finely divided precipitate forms which is removed by filtration. The filtrate is carefully acidified with 150 g. (2.5 mole) of acetic acid dissolved in 350 ml. of water. The resulting product which precipitates is collected on a filter, washed with water and air dried to yield 194.6 g. (0.7 mole) of the product of Procedure 2. The filtrate is acidified to pH 2 with concentrated hydrochloric acid and the resulting precipitate is collected on a filter, washed with water and air dried to give 264.8 g. (0.99 mole) of the desired product. A portion thereof weighing 25 g. is recrystallized from 1.4 l. of dioxane, yield 18.2 g., m.p. 223.5°-224.5° C. (dec.).

reactant | 2-amino-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 2.0 mole | NC1=C(C2=C(S1)CCCC2)C(=O)N | C9H12N2OS
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | acetic acid | 2.5 mole | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
catalyst | sodium | 2.2 g | [Na] | Na
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | N-[3-(aminocarbonyl)-4,5,6,7-tetrahydrobenzo[b]THIEN-2-YL]OXAMIC ACID | 0.99 mole | NC(=O)C=1C2=C(SC1NC(C(=O)O)=O)CCCC2 | C11H12N2O4S
